US04760013
Potassium hydroxide (19.6 g) and thiophenol (35.5 ml) were heated at 170 degrees C. in dimethylacetamide for two hours. 9,10-dibromoanthracene (37.5 g) was added and the mixture heated at 170 degrees C. an additional two hours. (The corresponding dichloro compound has also been used successfully.) The mixture was quenched with water and the precipitate recrystallized from chloroform/ethanol to give DTPA.

reactant | Potassium hydroxide | 19.6 g | [OH-].[K+]
reactant | thiophenol | 35.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 9,10-dibromoanthracene | 37.5 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 9,10-dithiophenoxyantracene | S(C1=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)SC1=CC=CC=C1 | C26H18S2
